US04782089
2-Amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid
A solution of 3.3 g (0.0092 mole) of 2-amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid ethyl ester in 70 ml of hot 190 proof ethanol was treated with 40 ml of 4N aqueous sodium hydroxide solution and the mixture was heated at reflux for 18 hr. The hot mixture was filtered and the insoluble material was discarded. The filtrate was cooled and the precipitate collected by filtration. This precipitate was partitioned between dilute hydrochloric acid and methylene chloride. The organic layer was separated, dried over magnesium sulfate and concentrated to give 2.7 g (89%) of bright yellow crystals, m.p. 172°-177° C.

reactant | 2-amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid ethyl ester | 0.0092 mole, 3.3 g | C(C)OC(CCC(C1=C(C(=CC=C1)C(C1=CC=C(C=C1)Cl)=O)N)=O)=O | C19H18ClNO4
reactant | sodium hydroxide | 4N, 40 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-3-(4-chlorobenzoyl)-γ-oxobenzenebutanoic acid | 2.7 g, 89% | NC1=C(C=CC=C1C(C1=CC=C(C=C1)Cl)=O)C(CCC(=O)O)=O | C17H14ClNO4
